US07319099B2
(a) 2-Hydroxy-5-sulfamoyl-benzoic acid
Ammonia gas was bubbled through a solution of 107 mmol 5-chlorosulfonyl-2-hydroxy-benzoic acid in 250 ml acetone at 0° C. for 2 h. Argon gas was then bubbled through the reaction mixture for 1 h to purge excess ammonia. The mixture was then diluted with water, the pH adjusted to pH 14 by addition of 5 M aq NaOH solution, and the mixture was then extracted with ether/ethyl acetate (1:1). The aqueous phase was acidified with concentrated HCl, saturated with NaCl, and extracted twice with THF. The combined THF extracts were dried with Na2SO4. Evaporation of the solvent in vacuo followed by drying of the residue by heating at 60° C. overnight in vacuo yielded the title compound.

reactant | Ammonia | N | H3N
reactant | 5-chlorosulfonyl-2-hydroxy-benzoic acid | 107 mmol | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)O | C7H5ClO5S
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 2-Hydroxy-5-sulfamoyl-benzoic acid | OC1=C(C(=O)O)C=C(C=C1)S(N)(=O)=O | C7H7NO5S
